US05686610
1-[5-Nitroindole-2-carbonyl]-4-[3-(1,1-dimethylpropylamino)-2-pyridinyl]piperazine
To a solution of 1-[1,1-dimethylethoxycarbonyl]-4-[3-(1,1-dimethylpropylamino)-2-pyridinyl]piperazine (PREPARATION 66, 4.99 g) in methylene chloride (75 ml) under nitrogen at 0° is added trifluoroacetic acid (14.3 ml) over 1 min. The resulting mixture is warmed to 20°-25°, stirred for 15 hrs, and then added to a solution of sodium hydroxide (7.44 g) in water (175 ml) at 0°. The layers are separated, the aqueous phase is extracted with methylene chloride (3×70ml), and the combined organic layer is washed with saline (60 ml), dried over sodium sulfate, and concentrated under reduced pressure to give the unprotected intermediate (Rf =0.14, TLC, methanol/chloroform, 10/90). In a flame-dried flask under nitrogen, 5-nitroindole-2-carboxylic acid (2.13 g) and 1,1'-carbonyldiimidazole (1.75 g) are dissolved in dry tetrahydrofuran and stirred for 3 hrs at 20°-25°. Then a solution of the intermediate (2.57 g) in dry tetrahydrofuran (3ml) is added and the resulting mixture is stirred for 1.8 days. The reaction mixture is filtered to give the title compound, NMR (dimethylsulfoxide-de) 12.41, 8.65, 8.09, 7.58, 7.16, 7.11, 6.91, 4.57, 3.93, 3.00, 1.71, 1.31 and 0.84. The filtrate is concentrated and is triturated with cold methanol to give an additional mount of the title compound.

reactant | 1-[1,1-dimethylethoxycarbonyl]-4-[3-(1,1-dimethylpropylamino)-2-pyridinyl]piperazine | 4.99 g | CC(C)(OC(=O)N1CCN(CC1)C1=NC=CC=C1NC(CC)(C)C)C | C19H32N4O2
reactant | trifluoroacetic acid | 14.3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 7.44 g | [OH-].[Na+]
reactant | 5-nitroindole-2-carboxylic acid | 2.13 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)O | C9H6N2O4
reactant | 1,1'-carbonyldiimidazole | 1.75 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | water | 175 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3ml | O1CCCC1 | C4H8O
product | 1-[5-Nitroindole-2-carbonyl]-4-[3-(1,1-dimethylpropylamino)-2-pyridinyl]piperazine | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(CC)(C)C | C23H28N6O3
